US09376452B2
tert-Butyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.28 g, 1.00 mmol) and 3-methoxybenzoyl isothiocyanate (0.20 g, 1.01 mmol) were dissolved in THF (5 mL) and heated at 50° C. for 22 hours. The solvent was removed and EtOH (10 mL) was added. The product was filtered and rinsed with EtOH (2×10 mL). tert-Butyl-2-(3-(3-methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.32 g, 0.68 mmol, 68% yield) was isolated as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ 14.71 (s, 1H), 9.06 (s, 1H), 7.51-7.49 (m, 1H), 7.44-7.40 (m, 2H), 7.19-7.13 (m, 1H), 4.74 (apparent t, J=1.5 Hz, 2H), 3.89 (s, 3H), 2.77 (apparent t, J=1.5 Hz, 2H), 1.64 (s, 9H), 1.31 (s, 6H).

reactant | tert-Butyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 1.00 mmol, 0.28 g | NC1=C(C2=C(COC(C2)(C)C)S1)C(=O)OC(C)(C)C | C14H21NO3S
reactant | 3-methoxybenzoyl isothiocyanate | 1.01 mmol, 0.20 g | COC=1C=C(C(=O)N=C=S)C=CC1 | C9H7NO2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-Butyl-2-(3-(3-methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.68 mmol, 0.32 g, 68% yield | C(C)(C)(C)OC(=O)C1=C(SC=2COC(CC21)(C)C)NC(=S)NC(C2=CC(=CC=C2)OC)=O | C23H28N2O5S2
